US04431653
2-Ethyl-4-methyl-1H-imidazole (3.3 g, 30 mM) and sodium hydride (50% by weight in mineral oil, 80 mM) in dimethylformamide (20 ml) was heated at 50° C. for 1/2 hour. The solution of 4-(3-bromopropyl)-1-piperidinecarboxaldehyde (7 g, 30 mM) in dimethylformamide (20 ml) was added at 50° C. and stirred at that temperature for 4 hours. After the reaction, solvent was removed in vacuo and water (100 ml) was added and then extracted with ethyl acetate (2×100 ml). The extracts, dried over Na2SO4, was stripped to dryness and purified on silica gel column, eluted with 2% by volume MeOH, 98% by volume CH2Cl2, to give 4-[3-(2-ethyl-4-methyl-1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde as an oil (4.04 g, 51% yield).

reactant | 2-Ethyl-4-methyl-1H-imidazole | 30 mM, 3.3 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | sodium hydride | 80 mM | [H-].[Na+]
reactant | 4-(3-bromopropyl)-1-piperidinecarboxaldehyde | 30 mM, 7 g | BrCCCC1CCN(CC1)C=O | C9H16BrNO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-[3-(2-ethyl-4-methyl-1H-imidazol-1-yl)propyl]-1-piperidinecarboxaldehyde | 4.04 g, 51% yield | C(C)C=1N(C=C(N1)C)CCCC1CCN(CC1)C=O | C15H25N3O
